US05347039
By carrying out the reaction as in Example 9 but starting from 1.06 g of t-butyl 5-phenyl-5-hydroxy-3-oxopentanoate and using 1.05 cm3 of titanium chloride triisopropoxide (4.17 mmol) and 281.4 mg of sodium cyanoborohydride (4.24 mmol), there is obtained, after reacting for 3 hours 30 minutes, with a yield of 68%, 720 mg of t-butyl 5-phenyl-3,5-dihydroxypentanoate for which the syn/anti ratio is equal to 95/5.

reactant | t-butyl 5-phenyl-5-hydroxy-3-oxopentanoate | 1.06 g | C1(=CC=CC=C1)C(CC(CC(=O)OC(C)(C)C)=O)O | C15H20O4
reactant | sodium cyanoborohydride | 4.24 mmol, 281.4 mg | C(#N)[BH3-].[Na+]
catalyst | titanium chloride triisopropoxide | 4.17 mmol, 1.05 cm3 | CC([O-])C.CC([O-])C.CC([O-])C.[Cl-].[Ti+4]
product | t-butyl 5-phenyl-3,5-dihydroxypentanoate | 720 mg, yield of 68% | C1(=CC=CC=C1)C(CC(CC(=O)OC(C)(C)C)O)O | C15H22O4
